US05366987
(a) Tetrazoleacetic acid ethyl ester
To a solution of ethylcyanoacetate (20.0 g, 0.177 mol) in dimethylformamide (DMF) (180 mL) was added NH4Cl (10.4 g, 0.19 mol) and sodium azide (12.6 g, 0.19 mol) sequentially. The mixture was heated for 5 hours at 100° C., allowed to cool, and the DMF removed in vacuo. The residue was taken up in water (150 mL), acidified to pH 2 with concentrated HCl, and filtered. The filtrate was cooled to 5° C. and allowed to crystallize. The solid was filtered, dried in vacuo over self-indicating silica gel to give 10.61 g, 42%, mp 124°-129° C.

reactant | ethylcyanoacetate | 0.177 mol, 20.0 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | NH4Cl | 0.19 mol, 10.4 g | [NH4+].[Cl-]
reactant | sodium azide | 0.19 mol, 12.6 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 180 mL | CN(C=O)C | C3H7NO
product | Tetrazoleacetic acid ethyl ester | C(C)OC(CC1=NN=NN1)=O | C5H8N4O2
